US08067445B2
Step 2: (5-Bromo-2-iodo-benzyl)-ethyl-amine
To 5-bromo-2-iodo-benzaldehyde (5.0 g, 16.1 mmol) in MeOH (20 mL) was added ethylamine (2M in MeOH; 16 mL, 24.0 mmol), followed by acetic acid (1.0 mL, 17.8 mmol), and the mixture was stirred at room temperature for 30 minutes. Sodium cyanoborohydride (2.0 g, 31.8 mmol) was then added over 5 minutes, and the reaction was stirred at room temperature over the weekend. The mixture was concentrated and partitioned between EtOAc and saturated aqueous NaHCO3. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography (0-5% MeOH in CH2Cl2) to give the title compound.

reactant | 5-bromo-2-iodo-benzaldehyde | 16.1 mmol, 5.0 g | BrC=1C=CC(=C(C=O)C1)I | C7H4BrIO
reactant | ethylamine | 24.0 mmol, 2M, 16 mL | C(C)N | C2H7N
reactant | acetic acid | 17.8 mmol, 1.0 mL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 31.8 mmol, 2.0 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | (5-Bromo-2-iodo-benzyl)-ethyl-amine | BrC=1C=CC(=C(CNCC)C1)I | C9H11BrIN
